US04978738
Monomers used in accordance with the examples which follow are preferably substantially analytically pure; for example, "electronic" grade 6FDA is preferable. This material contains more that 98.5% dianhydride, less that 1.5% of the corresponding monoanhydride-diacid and less than 0.1% of the corresponding tetra-acid. The 2,2-bis(3,4-dicarboxy phenyl) hexafluoropropane dianhydride specified herein (6FDA) is available from Hoechst-Celanese Corporation, Route 202-206 North, Somerville, N.J. 08876. Electronic grade dianhybride contains less than 10 ppm sodium, less than 5 ppm iron, less than 2 ppm cobalt and less that 2 ppm manganese, and has a melting point of 246.5 degrees Celsius. The BTDA utilized in the examples given hereinafter was a high purity polymer grade, 98.5% pure at a minimum with 1.5% monohydride and tetra acid at most with maximum ionic impurities of NA, K and FE of 0.6 ppm, 0.2 ppm and 1 ppm respectively. BPDA was obtained having an assay minimum of 99.5 per cent, maximum ionic impurities 1.4 ppm NA, 1.4 ppm K, 1.5 ppm FE. BTDA and BPDA specified above, i.e. high purity polymer grades, are available from Chriskev, of 5109 W. 111th Terrace, Leawood, Kansas. Likewise, the ODPA, greater than 99% pure was obtained from Occidental, 2801 Long Road, Grand Island New York.

reactant | sodium | [Na] | Na
reactant | tetra acid | C1=CC(=C2C(=CC=C(C2=C1C(=O)O)C(=O)O)C(=O)O)C(=O)O | C14H8O8
catalyst | iron | [Fe] | Fe
catalyst | cobalt | [Co] | Co
catalyst | manganese | [Mn] | Mn
product | BPDA | C1=CC2=C(C=C1C3=CC4=C(C=C3)C(=O)OC4=O)C(=O)OC2=O | C16H6O6
